US06124354
3-Quinuclidinyl 1-(4-chlorophenyl)cyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-(4-chlorophenyl)-cyclobutanecarbonyl chloride with 3-quinuclidinol at 80° C. for 25 h. The yield was 0.7 g (43%); mp 205-208° C.; 1H NMR (D2O) δ 1.73-1.85 (m, 2H), 1.86-1.97 (m, 2H), 2.04-2.15 (m, 2H), 2.32 (m, 1H), 2.48-2.63 (m, 2H), 2.87 (m, 2H), 3.12 (m, 1H), 3.22 (d, 1H), 3.27-3.42 (m, 3H), 3.73 (m, 1H), 5.17 (m, 1H), 7.37 (d, 2H), 7.43 (d, 2H). Anal. (C18H22ClNO2.HCl) C, H, N.

reactant | 1-(4-chlorophenyl)-cyclobutanecarbonyl chloride | ClC1=CC=C(C=C1)C1(CCC1)C(=O)Cl | C11H10Cl2O
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-Quinuclidinyl 1-(4-chlorophenyl)cyclobutanecarboxylate Hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C18H22ClNO2.ClH/c19-15-4-2-14(3-5-15)18(8-1-9-18)17(21)22-16-12-20-10-6-13(16)7-11-20;/h2-5,13,16H,1,6-12H2;1H
